US07888376B2
(S)-3-amino-3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl) propanamide (0.031 g, 0.085 mmol) was converted to the urea as described in Procedure 2. (S)-1-(3-amino-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-3-oxopropyl)-3-(3-fluorophenyl)urea (0.023 g, 56% yield) was isolated after purification by reverse phase prep HPLC: YMC ODSA 30×100 mm, 20-100% MeOH/H2O (0.1% TFA) gradient over 10 min, flow rate 20 mL/min eluting at a retention time of 10.3 min. LCMS: 1.98 min [M+1] 499.1 (2 min gradient, MeOH/H2O 0.1% TFA).

reactant | (S)-3-amino-3-(5-chloropyridin-2-yl)-3-(3-fluoro-5-(trifluoromethyl)phenyl) propanamide | 0.085 mmol, 0.031 g | N[C@@](CC(=O)N)(C1=CC(=CC(=C1)C(F)(F)F)F)C1=NC=C(C=C1)Cl | C15H12ClF4N3O
reactant | urea | NC(=O)N | CH4N2O
product | (S)-1-(3-amino-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-3-oxopropyl)-3-(3-fluorophenyl)urea | 0.023 g, 56% yield | NC(C[C@](C1=CC(=CC(=C1)C(F)(F)F)F)(C1=NC=C(C=C1)Cl)NC(=O)NC1=CC(=CC=C1)F)=O | C22H16ClF5N4O2
